US09062015B2
FS401: Acetic acid 4-{4-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-pyridin-2-yl]piperazin-1-yl}butyl ester
100 mg (0.29 mmol) of 1-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]piperazine are dissolved in 2 ml of DMF, and 47 mg (0.29 mmol) of potassium carbonate are added. 42 μl (0.29 mmol) of 4-bromobutyl acetate are subsequently added, and the mixture is stirred at 50° C. for 24 h. A further 11 μl (0.07 mmol) of 4-bromobutyl acetate are subsequently added, and the mixture is stirred at 50° C. for a further 48 h. The reaction mixture is evaporated, water is added to the residue, the mixture is rendered basic using 1 N NaOH and extracted three times with ethyl acetate. The organic phase is dried over Na2SO4 and evaporated. The crude product is purified by means of column chromatography on silica gel.

reactant | 1-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]piperazine | 0.29 mmol, 100 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCNCC1)C | C23H31N3
reactant | potassium carbonate | 0.29 mmol, 47 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromobutyl acetate | 0.29 mmol, 42 μl | C(C)(=O)OCCCCBr | C6H11BrO2
reactant | 4-bromobutyl acetate | 0.07 mmol, 11 μl | C(C)(=O)OCCCCBr | C6H11BrO2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | Acetic acid 4-{4-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-pyridin-2-yl]piperazin-1-yl}butyl ester | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCN(CC1)CCCCOC(C)=O)C | C29H41N3O2
